US04282242
Methyl 4-Phenyl-5-benzoylpyrrole-3-carboxylate
Methyl 4-phenylpyrrole-3-carboxylate (920 mg., 4.6 mmoles) and benzoyl chloride (0.53 ml., 4.6 mmoles) were combined in 50 ml. methylene chloride and stirred under nitrogen at room temperature. Stannic chloride (1.15 ml., 10 mmoles) was added. The resulting solution was stirred for 1.5 hours. Hydrochloric acid (1 N 25 ml.) was added slowly. The mixture was stirred for 10 minutes, the methylene chloride layer separated, back-washed with two 20 ml. portions of water, approximately 50 mg. of solids removed by filtration, and the filtrate evaporated to dryness. Recrystallization of the residue from acetone afforded purified methyl 4-phenyl-5-benzoylpyrrole-3-carboxylate (673 mg., m.p. 201°-203° C.).

reactant | Methyl 4-phenylpyrrole-3-carboxylate | 4.6 mmoles, 920 mg | C1(=CC=CC=C1)C=1C(=CNC1)C(=O)OC | C12H11NO2
reactant | benzoyl chloride | 4.6 mmoles, 0.53 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Hydrochloric acid | 1 N, 25 ml | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 4-Phenyl-5-benzoylpyrrole-3-carboxylate | C1(=CC=CC=C1)C=1C(=CNC1C(C1=CC=CC=C1)=O)C(=O)OC | C19H15NO3
